US07851473B2
(2) 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-1H-pyrazol-3-ylpiperazine-1-carboxamide
A mixture of bis(2,2,2-trichloroethyl) 1H-pyrazol-5-ylimidodicarbonate (264 mg, 0.609 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (300 mg, 1.22 mmol) and diisopropylethylamine (0.106 ml, 0.609 mmol) in dimethylsulfoxide (4.0 ml) was stirred at 70° C. for 8 hours. Water was poured into the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by high performance liquid chromatography (YMC HPLC column, A solution 0.1% trifluoroacetic acid solution in acetonitrile, B solution 0.1% trifluoroacetic acid solution in water, eluted with 10% A solution to 100% A solution) and aqueous saturated sodium hydrogen carbonate solution was added thereto and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of hexane and tetrahydrofuran to obtain the desired product (22.7 mg, 10.5%) as a solid.

reactant | bis(2,2,2-trichloroethyl) 1H-pyrazol-5-ylimidodicarbonate | 0.609 mmol, 264 mg | N1N=CC=C1N(C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC(Cl)(Cl)Cl | C9H7Cl6N3O4
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 1.22 mmol, 300 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 0.609 mmol, 0.106 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 4.0 ml | CS(=O)C | C2H6OS
product | 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-1H-pyrazol-3-ylpiperazine-1-carboxamide | 22.7 mg, 10.5% | C1(=CC=CC=C1)C1=NSC(=N1)N1CCN(CC1)C(=O)NC1=NNC=C1 | C16H17N7OS
